US06703391B2
A solution of 5-bromo-8-nitroisoquinoline (1 g, 3.95 mmol) in 20 mL THF was cooled to 0° C. and treated sequentially with sodium borohydride (0.75 g, 19.83 mmol) followed by the slow addition of acetic acid (20 mL). The reaction mixture was allowed to warm to room temperature, and an additional 2 equiv. of sodium borohydride was added. After quenching with water and treatment with sodium hydroxide solution to make basic, the reaction mixture was extracted with ethyl acetate. The organic residue was chromatographed on silica gel (25% ethyl acetate in hexane) to give the N-ethyl-5-bromo-8-nitrotetrahydroisoquinoline (0.8 g, 70% yield).

reactant | 5-bromo-8-nitroisoquinoline | 3.95 mmol, 1 g | BrC1=C2C=CN=CC2=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2
reactant | sodium borohydride | 19.83 mmol, 0.75 g | [BH4-].[Na+]
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 2 equiv. | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-ethyl-5-bromo-8-nitrotetrahydroisoquinoline | 0.8 g, 70% yield | C(C)N1CC2=C(C=CC(C2CC1)Br)[N+](=O)[O-] | C11H15BrN2O2
